US08633183B2
A-29) 5-Ethynyl-4-trifluoromethyl-pyridin-2-ylamine
The title compound is synthesized according to general procedure GP3 starting from 5.9 g (22.6 mmol) 4-trifluoromethyl-5-trimethylsilanylethynyl-pyridin-2-ylamine and 1.56 g (11.3 mmol) K2CO3 in 50 mL MeOH. The product is purified by chromatography on silica gel using a DCM/MeOH gradient. Yield: 2.97 g (71%).

reactant | 4-trifluoromethyl-5-trimethylsilanylethynyl-pyridin-2-ylamine | 22.6 mmol, 5.9 g | FC(C1=CC(=NC=C1C#C[Si](C)(C)C)N)(F)F | C11H13F3N2Si
reactant | K2CO3 | 11.3 mmol, 1.56 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 50 mL | CO | CH4O
product | 5-Ethynyl-4-trifluoromethyl-pyridin-2-ylamine | C(#C)C=1C(=CC(=NC1)N)C(F)(F)F | C8H5F3N2
